US07320995B2
1-isopropylsulfonyl-2-amino-6-(phenylethynyl)-benzimidazole
Under a nitrogen atmosphere, combine 1-isopropylsulfonyl-2-amino-6-iodo benzimidazole (400 g, 1.095 moles), bis(triphenylphosphine) palladium(II)acetate (32.8 g, 0.044 moles), and CuI (41.7 g, 0.219 moles), followed by DMSO (8.4 L) and triethylamine (317 g, 3.133 moles). Stir the resulting mixture at 20 to 25° C. for 15 minutes, followed by the addition of phenylacetylene (168 g, 1.645 moles) over 30 minutes giving a temperature rise to 34° C. Cool the reaction slowly to 20 to 25° C., and after 15 hours, quench an aliquot of the reaction into water and dilute with CH3CN for HPLC analysis. The HPLC chromatogram (Column:Zorbax SB-C8, 4.6×250 mm, 5 micron UV=218 nm, gradients acetonitrile/buffer) indicates complete consumption of the iodide with the production of two new less polar products (desired product and phenylacetylene dimer). Add water (4 L) to the reaction over 1 hour giving a temperature rise to 40° C., and a dark precipitate (mainly catalyst). Filter the reaction through a thin layer of Celite® (24 cm diameter) with no washing of the catalyst waste cake. Return the filtrate to the reactor and add an additional 4 L of water over 1 hour to give an ending temperature of 45° C., and a yellow slurry. Leave the mixture to cool overnight to 20 to 25° C. with stirring. Collect the solids by vacuum filtration, and wash with water (4 L). Dry the solids at 60° C. under vacuum to constant weight. Yield=319 g (86%) of light yellow granular solid. MS(ES+): m/z=340.2 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-iodo benzimidazole | 1.095 moles, 400 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)I)N | C10H12IN3O2S
reactant | DMSO | 8.4 L | CS(=O)C | C2H6OS
reactant | triethylamine | 3.133 moles, 317 g | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 1.645 moles, 168 g | C1(=CC=CC=C1)C#C | C8H6
solvent | CH3CN | CC#N | C2H3N
catalyst | bis(triphenylphosphine) palladium(II)acetate | 0.044 moles, 32.8 g | C(C)(=O)[O-].[Pd+2].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(=O)[O-]
catalyst | CuI | 0.219 moles, 41.7 g | [Cu]I
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-isopropylsulfonyl-2-amino-6-(phenylethynyl)-benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C#CC2=CC=CC=C2)N | C18H17N3O2S
